US06586424B2
4-({2-[(5-cyano-1,3-thiazol-2-yl)amino]-4-pyridinyl}methyl)-N,N-dimethyl-1-piperazinecarboxamide (10-10)
2-(4-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (0.119 g, 0.47 mmol) was dissolved in 1 mL DMSO. N,N-Dimethyl-1-piperazinecarboxamide (0.149 g, 0.95 mmol) was added and the solution was stirred for 3.5 hr. Additional N,N-dimethyl-1-piperazinecarboxamide (0.149 g, 0.95 mmol) was added and the solution was stirred for 1.5 hr. The reaction was diluted with water and the resulting precipitate collected by filtration. The solid was washed with water and hexanes then air dried overnight to afford the free base. Free base: 1H NMR (CD3OD) δ 8.33 (d, 1H, J=5.0 Hz), 8.03 (s, 1H), 7.08 (s, 1H), 7.04 (d, 1H, J=5.0 Hz), 3.58 (s, 1H), 3.29 (t, 4H, J=6.0 Hz), 2.84 (s, 6H), 2.49 (t, 4H, J=Hz). MS [M+H]+=372.1611.

reactant | 2-(4-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | 0.47 mmol, 0.119 g | ClCC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C10H7ClN4S
reactant | N,N-Dimethyl-1-piperazinecarboxamide | 0.95 mmol, 0.149 g | CN(C(=O)N1CCNCC1)C | C7H15N3O
reactant | N,N-dimethyl-1-piperazinecarboxamide | 0.95 mmol, 0.149 g | CN(C(=O)N1CCNCC1)C | C7H15N3O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-({2-[(5-cyano-1,3-thiazol-2-yl)amino]-4-pyridinyl}methyl)-N,N-dimethyl-1-piperazinecarboxamide | C(#N)C1=CN=C(S1)NC1=NC=CC(=C1)CN1CCN(CC1)C(=O)N(C)C | C17H21N7OS
